US06803457B1
(2S,3S,4R,5R)3-Azido-5-(6-chloro-purin-9-yl)-4-acetoxy-tetrahydro-furan-2-carboxylic acid methylamide
6-Chloropurine (20.4 g, 0.132 mol) was suspended in hexamethyl disilazane (165 mL) and heated at 110° C. After 2 h, the now homogeneous mixture was concentrated and the solid residue reconcentrated from toluene 2× and placed under high vac for 1 hour. The resulting solid was combined with 1,2-bis-O-acetyl-3-azido-3-deoxy-D-ribofuranuronic acid methyl amide (12.7 g, 0.044 mol) and dissolved in anhydrous dichloroethane (350 mL). Powdered 4A molecular sieves (15 g) were added and the mixture stirred for 15 minutes. TMSOTf (16.0 mL, 0.088 mol) was added and the reaction was then heated to 60° C. for two hours, cooled and quenched by the careful addition of saturated sodium bicarbonate solution (200 mL). Ethyl acetate (350 mL) was added and the mixture was filtered through sintered glass. The filtrate was extracted with ethyl acetate (3×) and the combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (15% then 20% acetone/dichloromethane) to afford the title compound (10.6 g) as an off-white foam. MS 381 (M+H)+. 1H NMR (400 MHz, CDCl3) δ 8.8 (s, 1H); 8.2 (s, 1H); 7.6 (bs, 1H); 6.13 (d, 1H, J=7.0 Hz); 5.87 (dd, 1H, J=7.0, 5.6 Hz); 4.85 (dd, 1H, J=5.6, 3.0 Hz); 4.58 (d, 1H, J=3.0 Hz); 2.9 (d, 1H, J=4.9 Hz); 2.11 (s, 3H).

reactant | 6-Chloropurine | 0.132 mol, 20.4 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1,2-bis-O-acetyl-3-azido-3-deoxy-D-ribofuranuronic acid methyl amide | 0.044 mol, 12.7 g | CNC([C@@H]1[C@H]([C@H](C(OC(C)=O)O1)OC(C)=O)N=[N+]=[N-])=O | C10H14N4O6
reactant | TMSOTf | 0.088 mol, 16.0 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | hexamethyl disilazane | 165 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | dichloroethane | 350 mL | ClC(C)Cl | C2H4Cl2
product | (2S,3S,4R,5R)3-Azido-5-(6-chloro-purin-9-yl)-4-acetoxy-tetrahydro-furan-2-carboxylic acid methylamide | 10.6 g | CNC(=O)[C@H]1O[C@H]([C@@H]([C@@H]1N=[N+]=[N-])OC(C)=O)N1C2=NC=NC(=C2N=C1)Cl | C13H13ClN8O4
